US07241761B2
(b) 2-piperazin-1-yl-benzoxazole hydrochloride
10.8 mmol of 4-benzoxazol-2-yl-piperazine-1-carboxylic acid tert.-butyl ester were treated with 30 ml of a dioxane, saturated with gaseous hydrochloric acid. The heterogenous mixture was stirred at room temperature for 1 hour, before evaporation of the solvent. This yielded the title compound as a colorless solid.

reactant | 4-benzoxazol-2-yl-piperazine-1-carboxylic acid tert.-butyl ester | 10.8 mmol | C(C)(C)(C)OC(=O)N1CCN(CC1)C=1OC2=C(N1)C=CC=C2 | C16H21N3O3
reactant | hydrochloric acid | Cl | ClH
solvent | dioxane | 30 ml | O1CCOCC1 | C4H8O2
product | 2-piperazin-1-yl-benzoxazole hydrochloride | Cl.N1(CCNCC1)C=1OC2=C(N1)C=CC=C2 | InChI=1S/C11H13N3O.ClH/c1-2-4-10-9(3-1)13-11(15-10)14-7-5-12-6-8-14;/h1-4,12H,5-8H2;1H
